US05281571
To a solution of 12.8 g (0.031 mole) 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenesulfonyl chloride in 100 mL acetic acid was added 40.7 g (0.62 mole) zinc powder. The slurry was stirred at 80° C. for 4 hours, allowed to cool and filtered through Celite®. The filtrate was poured into 10 L water, the solid filtered and dried. The solid was recrystallized from ethanol/water to give 10.2 g (95%) of 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenethiol as a yellow solid; mp 56°-58° C.

reactant | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenesulfonyl chloride | 0.031 mole, 12.8 g | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)S(=O)(=O)Cl | C11H5Cl3F4N2O2S
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.62 mole, 40.7 g | [Zn] | Zn
product | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenethiol | 10.2 g, 95% | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)S | C11H6Cl2F4N2S
